US04440779
Step E: Preparation of 1-Methyl-2-formyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylic acid
A sample of ethyl 1-methyl-2-formyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate (3.24 g, 10 mmol) is dissolved in hot ethanol (50 ml) and 10% aqueous NaOH is added (10 ml). The resulting mixture is heated at reflux until all starting material has been consumed. The solution is cooled, diluted with water (140 ml) and acidified to pH 2 with 6 N HCl. The resulting two-phase mixture is extracted with ethyl acetate (2×100 ml). The combined ethyl acetate layers are then washed with saturated brine (50 ml), and dried over sodium sulfate. The solvent is removed to give a residue which crystallizes on standing. This material is sufficiently pure for use in the next step.

reactant | ethyl 1-methyl-2-formyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylate | 10 mmol, 3.24 g | CN1C(=CC(=C1C(=O)OCC)COC1=CC(=CC=C1)C)C=O | C17H19NO4
reactant | NaOH | [OH-].[Na+]
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 1-Methyl-2-formyl-4-(3-methylphenoxymethyl)pyrrole-5-carboxylic acid | CN1C(=CC(=C1C(=O)O)COC1=CC(=CC=C1)C)C=O | C15H15NO4
